US08476286B2
E. Synthesis of [2-(3-chloro-benzylamino)-5-methoxy-phenyl]-(4-isopropyl-phenyl)-methanone
To a solution of 100 mg (0.327 mmol) (2-amino-5-methoxy-phenyl)-(4-isopropyl-phenyl)-methanone in 1 ml dichloromethane is added 140 μl (0.818 mmol) N,N-diisopropyl-ethylamine and 48.7 μl (0.360 mmol)3-chloro-benzyl bromide. The reaction mixture is heated under reflux for 4 days and extracted with water/dichloromethane. The organic residue is chromatographed. For further purification the corresponding hydrochloride is precipitated form an etheric solution by addition of gaseous hydrochloric acid.

reactant | (2-amino-5-methoxy-phenyl)-(4-isopropyl-phenyl)-methanone | 0.327 mmol, 100 mg | NC1=C(C=C(C=C1)OC)C(=O)C1=CC=C(C=C1)C(C)C | C17H19NO2
reactant | N,N-diisopropyl-ethylamine | 0.818 mmol, 140 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-chloro-benzyl bromide | 0.360 mmol, 48.7 μl | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | [2-(3-chloro-benzylamino)-5-methoxy-phenyl]-(4-isopropyl-phenyl)-methanone | ClC=1C=C(CNC2=C(C=C(C=C2)OC)C(=O)C2=CC=C(C=C2)C(C)C)C=CC1 | C24H24ClNO2
